US06194425B1
4-Chloro-3-nitro[1,5]naphthyridine (4.1 g), dichloromethane (150 mL), triethylamine (4.1 mL, 29.5 mmol), and 3-isopropoxypropylamine (3.3 mL, 23.8 mmol) were combined. The reaction mixture was maintained at ambient temperature overnight and then quenched with water (100 mL). The phases were separated. The aqueous phase was extracted with dichloromethane (100 mL). The organic phases were combined, dried over magnesium sulfate, filtered and then concentrated under vacuum to provide a yellow oil. The oil was purified by flash chromatography (silica gel eluting with 1:1 ethyl acetate:hexanes) to provide 4.8 g of N4-(3-isopropoxypropyl)-3-nitro[1,5]naphthyridin-4-amine as a yellow powder, m.p. 62.5-63.5° C. Analysis: Calculated for C14H18N4O3: % C, 57.92; % H, 6.25; % N, 19.30; Found: % C, 57.96; % H, 6.19; % N, 19.51. 1H NMR (300 MHz, CDCl3): δ 10.08 (broad s, 1H), 9.38 (broad s, 1H), 8.78 (m, 1H), 8.21 (dd, J=8.4,1.6 Hz, 1H), 7.64 (dd, J=8.4,4.1 Hz, 1H), 4.57 (broad s, 2H), 3.65-3.57 (m, 3H), 2.05 (t, J=5.6 Hz, 2H), 1.19 (d, J=6.0 Hz, 6H); MS (EI): m/e 290.1366 (290.1378 calc'd for C14H18N4O3).

reactant | 4-Chloro-3-nitro[1,5]naphthyridine | 4.1 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | triethylamine | 29.5 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | 3-isopropoxypropylamine | 23.8 mmol, 3.3 mL | C(C)(C)OCCCN | C6H15NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N4-(3-isopropoxypropyl)-3-nitro[1,5]naphthyridin-4-amine | 4.8 g | C(C)(C)OCCCNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C14H18N4O3
